US07737135B2
b) 1-(4-bromo-2-methylbenzoyl)-piperidine
The sub-title compound was prepared by the method of example 18 step a) using 4-bromo-2-methyl benzoic acid and piperidine.

reactant | 4-bromo-2-methyl benzoic acid | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-(4-bromo-2-methylbenzoyl)-piperidine | BrC1=CC(=C(C(=O)N2CCCCC2)C=C1)C | C13H16BrNO
